US05141930
To a solution of 2.0 g of 7-acetyl-2,3-dihydro-4-[4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl]thieno[3,2-f]-1,4-thiazepin-5(4H)-one in 20 ml of acetic acid was added to 1.0 g of 30% hydrogen peroxide and the mixture was stirred for 20 hours at room temperature. Then, the mixture was poured into ca. 3% aqueous sodium hydrogen sulfite solution and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and the solvent was distilled off. The resulting crude crystals were recrystallized from ethanol to give 1.5 g of 7-acetyl-2,3-dihydro-4-[4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl]thieno[3,2-f]-1,4-thiazepin-5(4H)-one 1-oxide as white crystals, melting at 103°-106° C.

reactant | 7-acetyl-2,3-dihydro-4-[4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl]thieno[3,2-f]-1,4-thiazepin-5(4H)-one | 2.0 g | C(C)(=O)C1=CC=2C(N(CCSC2S1)CCCCN1CCN(CC1)C1=NC=CC=N1)=O | C21H27N5O2S2
reactant | hydrogen peroxide | 1.0 g | OO | H2O2
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 7-acetyl-2,3-dihydro-4-[4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl]thieno[3,2-f]-1,4-thiazepin-5(4H)-one 1-oxide | 1.5 g | C(C)(=O)C1=CC=2C(N(CCS(C2S1)=O)CCCCN1CCN(CC1)C1=NC=CC=N1)=O | C21H27N5O3S2
